US06538010B1
5-iodo-3-nitro-2-aminopyridine (2.511 g, 9.48 mmol) and concentrated HCl (20 mL) were stirred at room temperature for ten minutes. Sodium nitrite (13 g, 188 mmol) was then slowly added followed by CuCl (1.0 g, 10 mmol). Stirring continued overnight. The mixture was poured into 1:1 NH4OH:H2O, extracted with ethyl acetate, dried over sodium sulfate, then concentrated. The crude residue was purified by flash chromatography using 9:1 hexane:ethyl acetate to yield 5-iodo-3-nitro-2-chloropyridine (984 mg, 36%) as a colorless solid.

reactant | 5-iodo-3-nitro-2-aminopyridine | 9.48 mmol, 2.511 g | IC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4IN3O2
reactant | Sodium nitrite | 188 mmol, 13 g | N(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
reactant | HCl | 20 mL | Cl | ClH
catalyst | CuCl | 10 mmol, 1.0 g | Cl[Cu]
product | 5-iodo-3-nitro-2-chloropyridine | 984 mg, 36% | IC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2ClIN2O2
